US06211199B1
Combine (1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine (0.5 g, 1.58 mmol) and dimethylformamide (10 mL). Add portionwise, sodium hydride (0.08 g, 60% in oil, 1.66 mmol). After 30 minutes, add ethyl bromoacetate (0.277 g, 1.66 mmol). After 12 hours, quench by the addition of water and extract the quenched reaction mixture with dichloromethane. Separate the layers and extract the organic layer with five times with water. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 5% methanol/dichloromethane to give (1-(ethoxycarbonylmethyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine.

reactant | (1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine | 1.58 mmol, 0.5 g | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C | C17H24N4O2
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 1.66 mmol, 0.08 g | [H-].[Na+]
reactant | ethyl bromoacetate | 1.66 mmol, 0.277 g | BrCC(=O)OCC | C4H7BrO2
solvent | methanol dichloromethane | CO.ClCCl
product | (1-(ethoxycarbonylmethyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine | C(C)OC(=O)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C | C21H30N4O4
